US04452807
6.5 g of (S)-4-[(3-benzyloxy-4-methoxybenzoyl)amino]-2-hydroxybutyric acid and 1.0 g of sodium trifluoroacetate are boiled at reflux while stirring in 40 ml of trifluoroacetic acid anhydride for 48 hours. After evaporation of the mixture, the residue is shaken three times with toluene, and the toluene is thereafter evaporated in vacuo. The residue, containing (S)-1-(3-benzyloxy-4-methoxybenzoyl)-2-oxo-3-pyrrolidinyltrifluoroacetate, is boiled at reflux in 40 ml of absolute methanol for 30 minutes. Thereafter, the mixture is stirred at room temperature for an additional 1 hour, whereupon the solid material is removed by filtration and washed with methanol. There is obtained (S)-1-(3-benzyloxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone which melts at 166°-167° after recrystallization from methanol; [α]D20 =-146°; [α]54620 =-180°; [α]36520 =-879° (chloroform, c=1.0).

reactant | (S)-4-[(3-benzyloxy-4-methoxybenzoyl)amino]-2-hydroxybutyric acid | 6.5 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NCC[C@@H](C(=O)O)O)C=CC1OC | C19H21NO6
reactant | sodium trifluoroacetate | 1.0 g | FC(C(=O)[O-])(F)F.[Na+]
solvent | trifluoroacetic acid anhydride | 40 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (S)-1-(3-benzyloxy-4-methoxybenzoyl)-3-hydroxy-2-pyrrolidinone | C(C1=CC=CC=C1)OC=1C=C(C(=O)N2C([C@H](CC2)O)=O)C=CC1OC | C19H19NO5
